US07192973B2
3-Phenyl-3-(1-tert-butylcarbonyloxypiperidin-4-yl)propionaldehyde
To a solution of ethyl 3-phenyl-3-(1-tert-butylcarbonyloxypiperidin-4-yl)propionoate (5.3 g, 14.6 mmol) in THF (100 mL) was added lithium aluminium hydride (14.6 mL, 1M, 14.6 mmol) dropwise over 20 min. The resulting mixture was stirred at 0° C. for 1 h. 2M aqueous sodium hydroxide (20 mL) was added dropwise. The mixture was filtered through Celite®, washing with ethyl acetate (3×25 mL). The filtrate and washings were combined and evaporated. The residue was dissolved in ethyl acetate (100 mL) and the resulting solution washed with water (3×50 mL), dried and evaporated to give the sub-titled compound (4.6 g); NMR: 0.9–1 (m, 2H) 1.25 (m, 1H) 1.35 (s, 9H) 1.5–2 (m, 5H) 2.6 (m, 2H) 3.1 (m, 2H) 3.8-4 (m, 2H) 4.2 (t, 1H).

reactant | ethyl 3-phenyl-3-(1-tert-butylcarbonyloxypiperidin-4-yl)propionoate | 14.6 mmol, 5.3 g | C1(=CC=CC=C1)C(CC(=O)OCC)C1CCN(CC1)OC(=O)C(C)(C)C | C21H31NO4
reactant | lithium aluminium hydride | 14.6 mmol, 1M, 14.6 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2M, 20 mL | [OH-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-Phenyl-3-(1-tert-butylcarbonyloxypiperidin-4-yl)propionaldehyde | 4.6 g | C1(=CC=CC=C1)C(CC=O)C1CCN(CC1)OC(=O)C(C)(C)C | C19H27NO3
